US05356917
A. Preparation of β-(3,5-di-t-butyl-4-hydroxyphenyl)-α-mercaptoacrylic acid
A solution of 174.5 g of 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-2-thioxo-4-thiazolidinone in 1250 ml of a 10% sodium hydroxide solution was heated on a steam bath for four hours. Decolorizing carbon was added and the mixture filtered through a high flow diatomaceous earth pad. The filtrate was chilled by adding ice and treated with 6N hydrochloric acid. The precipitated product was recovered by filtration, washed with water, and dried providing 150 g of the desired subtitled intermediate.

reactant | 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-2-thioxo-4-thiazolidinone | 174.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=S)=O | C18H23NO2S2
reactant | sodium hydroxide | [OH-].[Na+]
product | β-(3,5-di-t-butyl-4-hydroxyphenyl)-α-mercaptoacrylic acid | 150 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C(C(=O)O)S | C17H24O3S
